US20010020099A1
4-Benzoyloxy-1-(2-hydroxyethoxy)-2,2,6,6-tetramethylpiperidine
Tributyltin hydride is added dropwise to a solution of 2-iodoethanol and 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine in chlorobenzene. The crude reaction mixture is passed through silica gel with heptane and then heptane/ethyl acetate to afford the title compound.

reactant | Tributyltin hydride | C(CCC)[SnH](CCCC)CCCC
reactant | 2-iodoethanol | ICCO | C2H5IO
reactant | 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C16H23NO3
reactant | heptane | CCCCCCC | C7H16
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | 4-Benzoyloxy-1-(2-hydroxyethoxy)-2,2,6,6-tetramethylpiperidine | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OCCO)(C)C | C18H27NO4
